US05294718
To a solution of 10.1 g of 5 (4-hydroxypiperidino)-2-nitrobenzaldehyde and 34.4 g of ethyl malonate sodium salt in 120 ml of pyridine were added 9.9 g of concentrated sulfuric acid and 850 mg of piperidine. After refluxing for 1 hr, the reaction mixture was concentrated under a reduced pressure. Dilute hydrochloric acid was added to the residue and it was extracted with chloroform. The extract was washed with water, dried, and evaporated under a reduced pressure. The residue was purified by a silica gel column chromatography to give 10.6 g of ethyl 5-(4-hydroxypiperidino)-2-nitrocinnamate.

reactant | (4-hydroxypiperidino)-2-nitrobenzaldehyde | OC1CCN(CC1)C=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C12H14N2O4
reactant | ethyl malonate sodium salt | 34.4 g | [Na+].C(CC(=O)[O-])(=O)OCC
reactant | sulfuric acid | 9.9 g | S(O)(O)(=O)=O | H2O4S
reactant | piperidine | 850 mg | N1CCCCC1 | C5H11N
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 5-(4-hydroxypiperidino)-2-nitrocinnamate | 10.6 g | OC1CCN(CC1)C=1C=CC(=C(C=CC(=O)OCC)C1)[N+](=O)[O-] | C16H20N2O5
